* C:\Users\luigi\OneDrive\KIT_courses\4th Semester\Microwave Engineering Lab\Microwave_Eng_Lab\Lab6_Analog_Digital_Mod\LT Spice\LAst Ex\Freq_Demod_raw_SS25.asc
* Generated by LTspice 24.1.9 for Windows.
V1 nf 0 SINE(0 1 10e3 0 0 0 0) AC 1
D1 N005 N006 D
R1 N006 0 1e3
C1 N006 0 100n
L1 N005 0 2.5µ
C2 N005 0 10n
A3 nf 0 0 0 0 0 N004 0 MODULATOR mark=1.2e6 space=1e6
X§U1 N002 0 N003 opamp Aol=100K GBW=10Meg
R3 N002 N004 1e3
R4 N002 N003 1e3
R6 N005 N003 50
L2 N001 0 2.5µ
C3 N001 0 10n
V2 N001 0 SINE(0 1 10e3 0 0 0 0) AC 1 Rser=50
.model D D
.lib C:\Users\luigi\AppData\Local\LTspice\lib\cmp\standard.dio
;step param C list 0.1n 0.5n 1n 10n 100n
.lib opamp.sub
.ac oct 10000 1 10000000
.backanno
.end
